US06313122B1
C. N1-(3-Cyanobenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine
To a solution of N1-(3-cyanobenzoyl)-1,2-benzenediamine (500 mg, 2.1 mmol), triethylamine (0.44 mL, 3.2 mmol) in methylene chloride (100 mL) was added 4-tert-butylbenzoyl chloride (0.41 mL, 2.1 mmol). After stirring for 20 hours, the reaction mixture was concentrated in vacuo. Chromatography (silica gel, 20% ethyl acetate/80% hexanes) yielded 730 mg (87%) of the title compound as a white solid.

reactant | N1-(3-cyanobenzoyl)-1,2-benzenediamine | 2.1 mmol, 500 mg | C(#N)C=1C=C(C(=O)NC=2C(=CC=CC2)N)C=CC1 | C14H11N3O
reactant | triethylamine | 3.2 mmol, 0.44 mL | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butylbenzoyl chloride | 2.1 mmol, 0.41 mL | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N1-(3-Cyanobenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine | 730 mg, 87% | C(#N)C=1C=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=CC1 | C25H23N3O2
